US06001823
Ethyl 2,3-O-dibenzoyl-4-O-benzyl-1-thio-β-D-glucohexopyranoside (200 mg, 0.38 mmol) was dissolved in an ice-cooled mixture of pyridine and acetic anhydride (1:1, 6 Å). The mixture was stirred and attained at room temperature overnight. The mixture was diluted with dichloromethane, washed with satd. aq. sodium hydrogen carbonate and water and dried over sodium sulphate. The solvents were removed under reduced pressure and the residue was subjected to flash chromatography on silica gel (toluene-acetonitrile 6:1) to yield 204 mg, 930 of ethyl 6-O-acetyl-2,3-O-dibenzoyl-4-O-benzyl-1-thio-β-D-glucohexopyranoside.

reactant | Ethyl 2,3-O-dibenzoyl-4-O-benzyl-1-thio-β-D-glucohexopyranoside | 0.38 mmol, 200 mg | C(C1=CC=CC=C1)(=O)[C@@]1([C@H](SCC)O[C@@H]([C@H]([C@@H]1OC(C1=CC=CC=C1)=O)OCC1=CC=CC=C1)CO)O | C29H30O7S
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
solvent | dichloromethane | ClCCl | CH2Cl2
product | ethyl 6-O-acetyl-2,3-O-dibenzoyl-4-O-benzyl-1-thio-β-D-glucohexopyranoside | C(C)(=O)OC[C@@H]1[C@H]([C@@H]([C@]([C@H](SCC)O1)(O)C(C1=CC=CC=C1)=O)OC(C1=CC=CC=C1)=O)OCC1=CC=CC=C1 | C31H32O8S
